US07288651B2
Methyl 2-amino-4-iodobenzoate. To a stirred solution of 4-iodo-2-nitrobenzoic acid (2.3 g, 7.9 mmol) in DMF (30 mL) at 0° C. was added DBU (2.4 mL, 16 mmol) followed by iodomethane (1.5 mL, 24 mmol). The reaction mixture was stirred 15 min at 0° C., then was allowed to warm to room temperature and was stirred overnight. The mixture was poured into H2O and extracted with EtOAc (2×). The combined organic extracts were washed with H2O (2×), dried (MgSO4), and concentrated in vacuo. The residue was purified by flash chromatography (hexanes/EtOAc) to afford methyl 4-iodo-2-nitrobenzoate as a pale yellow solid (2.30 g, 95%). To a solution of the nitrobenzoate (2.3 g, 7.4 mmol) in 1:1 EtOAc/DCM (10 mL) at room temperature was added SnCl2.2H2O (8.3 g, 37 mmol). The reaction mixture was allowed to stir overnight. The solvents were evaporated in vacuo, and the residue was partitioned between satd. aq. NaHCO3 and DCM. The layers were separated, and the aqueous layer was further extracted with DCM (2×). The combined organic layers were dried (MgSO4) and concentrated in vacuo to provide the pure aminobenzoate as a yellow solid (1.87 g, 91%). 1H NMR (500 MHz, CDCl3): 7.52(d, J=8.5 Hz, 1H), 7.07 (d, J=1.6 Hz, 1H), 6.96 (dd, J=8.5, 1.6 Hz, 1H), 5.72 (br s, 2H), 3.86 (s, 3H).

reactant | Methyl 2-amino-4-iodobenzoate | NC1=C(C(=O)OC)C=CC(=C1)I | C8H8INO2
reactant | 4-iodo-2-nitrobenzoic acid | 7.9 mmol, 2.3 g | IC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4INO4
reactant | DBU | 16 mmol, 2.4 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | iodomethane | 24 mmol, 1.5 mL | IC | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | methyl 4-iodo-2-nitrobenzoate | 2.30 g, 95% | IC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6INO4
